US08022222B2
Step A: Preparation of N-(5-bromo-4-(quinolin-5-yloxy)pyridin 2-yl)-4-methylthiazol-2-amine:
A mixture of 1-(5-bromo-4-(quinolin-5-yloxy)pyridin-2-yl)thiourea (2.00 g, 5.330 mmol), 1-chloropropan-2-one (0.6366 ml, 7.995 mmol), triethylamine (1.486 ml, 10.66 mmol), and ethanol (25 ml) was heated at reflux for two days. The organic solvents were concentrated, and hexanes:ethyl acetate (9:1) were added and the reaction was filtered. The residue was washed with water and ethyl acetate, and dried over high vacuum overnight to give the desired compound (1.70 g, 76.40% yield) as very light yellow solid.

reactant | 1-(5-bromo-4-(quinolin-5-yloxy)pyridin-2-yl)thiourea | 5.330 mmol, 2.00 g | BrC=1C(=CC(=NC1)NC(=S)N)OC1=C2C=CC=NC2=CC=C1 | C15H11BrN4OS
reactant | 1-chloropropan-2-one | 7.995 mmol, 0.6366 ml | ClCC(C)=O | C3H5ClO
reactant | triethylamine | 10.66 mmol, 1.486 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-(5-bromo-4-(quinolin-5-yloxy)pyridin 2-yl)-4-methylthiazol-2-amine | 1.70 g, 76.40% yield | BrC=1C(=CC(=NC1)NC=1SC=C(N1)C)OC1=C2C=CC=NC2=CC=C1 | C18H13BrN4OS
